Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine
 
Attending: ___.
 
Chief Complaint:
Failure To Thrive, Difficulty Swallowing
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ hx HTN, HLD, DM, CKD (Cr 1.3 on last discharge), prior R MCA 
stroke with L hemiparesis, nursing home resident, recently 
transferred from ___ after presenting with slurred 
speech, N/V and found to have acute L pontine stroke attributed 
to small vessel disease in the setting of difficult to control 
hypertension, admitted on Neurology ___ and discharge to 
rehab, recently discharged, now presents with FTT and inability 
to take POs.

-In the ED, initial VS were: 98.0 67 137/78 19 100% RA.
-ED labs were notable for: H/H 8.6/27.7. Normal LFTs. Chem7 
moderately hemolyzed with K 5.8 (5 on green top), Cl 109, Bicarb 
19, BUN/Cr ___. AG = 15. Normal coags.

-CXR showed: IMPRESSION: Low lung volumes. No definite 
pneumonia. 
-Head CT showed:
1. No evidence of acute territorial infarction or intracranial 
hemorrhage. Please note that MRI is more sensitive for the 
detection of acute stroke.
2. Evolution of the previously visualized left pontine infarct. 
Large chronic right MCA territory infarct.
-EKG showed: None.

Patient was given: 
___ 23:42 IVF  NS ( 1000 mL ordered) 
 
Transfer VS were: 98.1 66 156/88 16 100% RA. 

When seen on the floor, patient is oriented and pleasant if a 
bit soft spoken. She says that she was able to eat in the 
hospital and at the rehab. Two days ago, she stopped being able 
to eat. In particular, she swallows but the foods get caught in 
her throat. She gags and coughs up the food. The day before this 
happened, she was able to eat her modified diet without issue 
she says. She denies change in her speech or her vision, or new 
focal weakness. She denies fever, chills, HA, congestion, chest 
pain, shortness of breath, abdominal pain. She does endorse 
constipation. She does endorse burning with urination, but feels 
that her frequency of urination has gone down. She feels weak in 
"her whole body." 

Though this was not elicited on floor interview, per ED nursing 
documentation she had told them that, "her facility doesn't 
usually take the time to assist her with eating and believed her 
condition had changed." Per other ED documentation, she had 
failed a S&S, which the patient endorses though she does not 
state clearly when. Per the transfer documentation from the 
facility, she was only brought here for "change in mental 
status." Shortly after arrival to the floor she was given a 
small amount of thickened liquid at her request, but per nursing 
held this in her month, and with encouragement would not 
swallow.   

HCP was contacted at her request to the ED for update when 
patient reached the floor, and added that she believed dysphagia 
and SLP evaluations above happened ___, day of presentation 
to ED. She noted that after last stroke, she had to come up from 
___ to be with patient to encourage her to eat, and hired 
someone to stay with her for similar reason. She also has 
concerns about the ___ facility. Finally, she does not 
want the patient to be on antidepressants bc she thinks these 
have a paradoxical effect on the patient and make her less 
responsive and more confused. 
 
Past Medical History:
L Pontine stroke ___ 
R MCA stroke ___ with left hemiplegia
Hypertension
Hyperlipidemia
Diabetes
CKD
Depression
 
Social History:
___
Family History:
Mother and father with hypertension, aunt with breast cancer.
 
Physical Exam:
ADMISSION EXAM
Vitals: 97.8 173/90 65 16 98%RA
Gen: Elder, frail appearing lady, supine in bed, NAD 
HEENT: NCAT. PERRLA. Difficult to assess EOMI as she'll stop 
tracking and need to be redirected to track moving finger. L 
sided facial droop. L sided tongue deviation. Thickened 
secretions on the tongue. Poor dentition. Hirsuite. 
CV: RRR, no r/g/m
Chest: CTAB anterolaterally, no w/r/r
GI: soft, NT, ND, BS+
MSK:No synovitis.
Skin: No jaundice.
Neuro: AAOx3. L sided facial droop with L tongue deviation as 
above. L sided hemiplegia only able to move her L toes slightly. 
___ strength R ankle flexor/extensors. ___ strength RLE proximal 
muscle groups. ___ strength RUE muscle groups. 
Psych: Anxious, perhaps depressed affect 

DISCHARGE EXAM
-Vitals: 98.4F, HR 71, BP 113/66, RR 16, SpO2 96% on RA
-General: sleeping comfortably but rouses easily, answers 
questions appropriately in complete sentences 
-HEENT: moist mucus membranes
-Cardio: RRR, no murmur
-Pulm: clear b/l, no wheeze
-Abdomen: soft, nontender, nondistended, bladder not distended 
or palpable 
-Extremities: no pedal edema 
-Neuro: left facial droop with left hemiplegia, slowed responses 
but easy to understand and appropriate 
 
Pertinent Results:
-DISCHARGE LABS ___: Na 136, K 4.1, Cl 102, Cr 1.0, glucose 
86
-Urine culture: >100,000 E Coli 
 
Brief Hospital Course:
___ hx HTN, HLD, DM, CKD (Cr 1.3 on last discharge), prior R MCA 
stroke with L hemiparesis, ___ resident, recently 
transferred from ___ after presenting with slurred 
speech, N/V and found to have acute L pontine stroke attributed 
to small vessel disease in the setting of difficult to control 
hypertension, admitted on Neurology ___ and discharge to 
rehab, re-presents with FTT and inability to take POs.

1. Dysphagia
-Unclear if there is a true problem, volitional component, 
manifestation of encephalopathy, or whether the rehab was simply 
not giving her enough attention at meals. Neurologic exam 
appears stable compared to recent discharge from Neurology. She 
has been quite lethargic at times and waxing/waning, which are 
likely a
manifestation of encephalopathy. Per SLP she is at baseline and 
continue thin liquids/puree solids and 1:1 assist with all 
meals. 

2. Dehydration, hypernatremia, Metabolic Acidosis, ___ on CKD
-Creatinine 2.2 due to poor PO intake and poor free water intake 
with contribution from ACE inhibitor and diuretic, which 
improved to Creatinine 1.0 with rehydration, holding ACEi, and 
discontinuing Lasix.  Unclear indication for Furosemide (?HTN), 
but in setting of multiple admissions for ___ and dehydration 
and it has been discontinued. Resumed ACEi at discharge and 
repeat BMP in 1 week. 

3. E Coli UTI 
-Patient received IV Ceftriaxone ___ and transitioned to PO 
cephalexin ___ through ___ to complete course of antibiotics.

4. Intermittent lethargy/metabolic encephalopathy
-She has waxing/waning levels of consciousness with similar 
reports at rehab facility likely multifactorial in the setting 
of the above problems.  Patient reports lethargy due to 
clonidine, so clonidine has been decreased from 0.2mg TID to 
0.1mg TID.  Recommend further titrating off if this seems to 
improve mental status. 

5. Failure to thrive
-Likely multifactorial as above. Continue to treat underlying 
medical issues. Patient must have 1:1 assistance with all meals. 


6. HTN
-Blood pressures very labile, which has been an issue during 
last admission as well. Lasix discontinued due to ___ and volume 
depletion.  Due to reports of clonidine-induced lethargy the 
dose was decreased from 0.2mg TID to 0.1mg TID; advise tapering 
further if this helps with mentation.  Continue hydralazine, 
clonidine, labetalol, lisinopril, and IMDUR; continue frequent 
blood pressure monitoring and adjust doses as needed. 

7. Urinary retention 
-Patient with one episode of urinary retention.  Monitor for 
bladder distention and decreased urine output.  Bladder scan (if 
possible) and straight cath with urinary retention >600mL.

Chronic Medical Problems
1. HLD: continue statin
2. DM: Recent HbA1c was 5. 
3. Gout: Holding allopurinol.
4. Anemia: stable, monitor (thrombocytopenia resolved)

Patient's HCP ___ updated.
>30 minutes spent on DC planning 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. Atorvastatin 80 mg PO QPM 
3. CloNIDine 0.2 mg PO Q8H 
4. Clopidogrel 75 mg PO DAILY 
5. HydrALAZINE 50 mg PO Q6H 
6. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
7. Labetalol 300 mg PO Q6H 
8. LevETIRAcetam 750 mg PO BID 
9. Allopurinol ___ mg PO DAILY 
10. Furosemide 80 mg PO DAILY 
11. Lisinopril 40 mg PO DAILY 
12. Ondansetron 4 mg PO Q8H:PRN nausea 
13. Potassium Chloride 40 mEq PO DAILY 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. megestrol 400 mg/10 mL (10 mL) oral DAILY 
16. Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH ON THE ___. 
17. Senna 8.6 mg PO QHS 
18. Multivitamins 1 TAB PO DAILY 
19. Fleet Enema ___AILY:PRN constipation 
20. Nystop (nystatin) 100,000 unit/gram topical BID 
21. calamine-zinc oxide ___ % topical DAILY:PRN 

 
Discharge Medications:
1.  Cephalexin 250 mg PO Q6H Duration: 2 Days 
Take for 2 days through ___  
2.  Docusate Sodium 100 mg PO BID  
3.  CloNIDine 0.1 mg PO Q8H  
4.  HydrALAZINE 37.5 mg PO Q6H  
5.  Labetalol 200 mg PO Q6H  
6.  Lisinopril 20 mg PO DAILY  
7.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
8.  Allopurinol ___ mg PO DAILY  
9.  Atorvastatin 80 mg PO QPM  
10.  calamine-zinc oxide ___ % topical DAILY:PRN  
11.  Clopidogrel 75 mg PO DAILY  
12.  Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH ON THE ___.  
13.  Fleet Enema ___AILY:PRN constipation  
14.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
15.  LevETIRAcetam 750 mg PO BID  
16.  megestrol 400 mg/10 mL (10 mL) oral DAILY  
17.  Multivitamins 1 TAB PO DAILY  
18.  Nystop (nystatin) 100,000 unit/gram topical BID  
19.  Ondansetron 4 mg PO Q8H:PRN nausea  
20.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
21.  Senna 8.6 mg PO QHS  
22.Outpatient Lab Work
BMP in one week for ___ (ICD10 N17.9)

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
UTI, ___, dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted and treated for a bladder infection, 
dehydration, kidney injury, and trouble swallowing.  Your 
medications have been adjusted to prevent dehydration and kidney 
injury in the future.  You will complete a course of antibiotics 
for your infection at discharge.  I also adjusted your 
hypertension medications to reduce sleepiness. 
 
Followup Instructions:
___